US07247645B2
1) Synthesis of (3,3-diphenylpropane-1-yl)3-oxo-4-(2-(pyridine-2-yl)ethoxy)butanoate:
503 mg (4.08 mmol) of 2-(pyridine-2-yl)ethanol was added dropwise to a suspension of 326 mg (8.16 mmol) of sodium hydride (60% oily) in 10 ml of THF at 0° C., and they were stirred for 30 minutes. A solution of 0.90 mg (2.72 mmol) of (3,3-diphenylpropane-1-yl)4-chloroacetoacetate in 3 ml of THF was added dropwise to the reaction mixture, and they were stirred at room temperature overnight. After the addition of methanol, the reaction mixture was concentrated and fractionated with ethyl acetate and water. After the drying over sodium sulfate followed by the purification by the silica gel chromatography (methylene chloride/methanol=100/1), the title compound was obtained.

reactant | 2-(pyridine-2-yl)ethanol | 4.08 mmol, 503 mg | N1=C(C=CC=C1)CCO | C7H9NO
reactant | sodium hydride | 8.16 mmol, 326 mg | [H-].[Na+]
reactant | (3,3-diphenylpropane-1-yl)4-chloroacetoacetate | 2.72 mmol, 0.90 mg | C1(=CC=CC=C1)C(CCOC(CC(=O)CCl)=O)C1=CC=CC=C1 | C19H19ClO3
reactant | methanol | CO | CH4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (3,3-diphenylpropane-1-yl)3-oxo-4-(2-(pyridine-2-yl)ethoxy)butanoate | C1(=CC=CC=C1)C(CCOC(CC(COCCC1=NC=CC=C1)=O)=O)C1=CC=CC=C1 | C26H27NO4
